US07812047B2
rac-4-(4-Chloro-phenoxymethyl]-4,5-dihydro-1H-imidazole
To a solution of 3-(4-chloro-phenoxy)-propane-1,2-diamine (0.19 g, 0.95 mmol) in ethanol (5 ml) was added formamidine acetate (0.1 g, 1.0 mmol) and the mixture was stirred overnight at room temperature. The solvent was evaporated, water (5 ml) was added and the mixture was extracted 3 times with dichloromethane (10 ml). The combined organic layers were dried over magnesium sulfate and evaporated. The residue was purified by chromatography (column: Isolute® Flash-NH2 from Separtis; eluent:ethyl acetate/methanol=90:10) to yield a light yellow oil (0.063 g, 32%); MS (ISP): 211.2 ((M+H)+).

reactant | 3-(4-chloro-phenoxy)-propane-1,2-diamine | 0.95 mmol, 0.19 g | ClC1=CC=C(OCC(CN)N)C=C1 | C9H13ClN2O
reactant | formamidine acetate | 1.0 mmol, 0.1 g | C(C)(=O)O.C(=N)N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | rac-4-(4-Chloro-phenoxymethyl]-4,5-dihydro-1H-imidazole | 0.063 g, 32% | ClC1=CC=C(OCC2N=CNC2)C=C1 | C10H11ClN2O
